US05041673
3-Tert-butoxycarbonylamino-3,4-dihydro-1-isopropyloxy-2-(1H)-naphthalenone
Under argon to a solution of (±)-(1R,2R,3R)-3-tert- butoxycarbonylamino-1,2,3,4-tetrahydro-1-isopropyloxy-2-naphthalenol (50 mg) in anhydrous methylene chloride (4 ml) was added Dess-Martin periodinane (100 mg). Agitation was maintained at room temperature for 2 hours. The reaction mixture was filtered on a silica gel column (10 g, elution with ethyl acetate:cyclohexane. 1:9) to afford the title compound as an oil (38 mg).

reactant | (±)-(1R,2R,3R)-3-tert- butoxycarbonylamino-1,2,3,4-tetrahydro-1-isopropyloxy-2-naphthalenol | 50 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@H]([C@@H](C2=CC=CC=C2C1)OC(C)C)O | C18H27NO4
reactant | Dess-Martin periodinane | 100 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 3-Tert-butoxycarbonylamino-3,4-dihydro-1-isopropyloxy-2-(1H)-naphthalenone | 38 mg | C(C)(C)(C)OC(=O)NC1C(C(C2=CC=CC=C2C1)OC(C)C)=O | C18H25NO4
